US04018821
In a 1 liter flask with a cooling jacket equipped with a mechanical stirrer and a thermometer, 295.5 gm. of aqueous trimethylamine solution (TMA) (40.0 percent, 2.00 moles) was prepared and cooled to 10° C. (in a cryometer, or tap water). With a hose-equipped perpex compression pump and a teflon hose, which was submerged (extended) into the TMA solution, 73.50 gm. of γ-chloroacetoacetic ethyl ester (89.6 percent, 40 moles) was added in doses during 3.5 hours at 10° C., while stirring well. The vessel and the teflon hose were flushed with 5 gm. of ethanol. After 1 hour of continued stirring, the excess TMA was sucked off on a rotavapor and condensed. The reaction solution was adjusted from pH 7.5 to pH 6.0 (using 11 ml of concentrated HC1). The brown solution was reacted with 2.2 gm. of platinum on activated charcoal (ex Fluka, 5% purest) and was hydrogenated in a 1 liter SFS laboratory autoclave during 5 hours at 10° C., 10 atm. and 750 rpm. The solution was filtered off from the catalyst. The resultant bright yellow solution was hydrolyzed with approximately 10 ml of concentrated hydrochloric acid (at most the pH was 0.5) in distillation apparatus. Subsequently this was evaporated to dryness and the residue was dried at 40° C. under high vacuum. The residue was suspended in 330 ml of absolute ethanol during 1.5 hours, was filtered and dried to a constant weight. 72.55 gm. of carnitine hdrochloride, with a melting point of 198° to 199° C, were obtained - this corresponded to a 90.5 percent yield, related to the starting γ-chloroacetoacetic ethyl ester.

reactant | trimethylamine | 2.00 moles | CN(C)C | C3H9N
reactant | γ-chloroacetoacetic ethyl ester | 40 moles | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
catalyst | platinum on activated charcoal | [Pt] | Pt
solvent | water | O | H2O
product | carnitine | 90.5 percent yield | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
